US05059347
2-butyl-1-octanol;
2-methyl-1-tridecanol; 2-ethyl-1-dodecanol;

reactant | 2-methyl-1-tridecanol | CC(CO)CCCCCCCCCCC | C14H30O
reactant | 2-ethyl-1-dodecanol | C(C)C(CO)CCCCCCCCCC | C14H30O
product | 2-butyl-1-octanol | C(CCC)C(CO)CCCCCC | C12H26O
